US04100170
Preparation of β-(1-Adamantyl)-α-methylethylamine, IX
1-Adamantyl-2-propanone oxime (59 gm.) was dissolved in 775 ml. acetic acid, 10 gm. PtO2 added and the mixture hydrogenated at about 40 lbs. pressure. The solution was filtered and concentrated. The residue was dissolved in 2 liters of ether, added, over 5-10 minutes, to 84 gm. NaHCO3 in 10 liters of water and stirred for 1/2 hour. The ether was separated and concentrated and the residue treated with 50 ml. acetic acid, and concentrated. The acetic acid residue was dissolved in 200 ml. ether, added to 8.4 gm. NaHCO3 in 1 liter of water and this solution added to the main solution. NaOH (53 ml. of 50% solution) was added to the combined aqueous solutions, stirred 5 minutes and extracted with 2 × 1.5 liters of ether. The ether extract was dried and concentrated and the residue distilled to give 42.2 gm. product, b25 161°.

reactant | 1-Adamantyl-2-propanone oxime | 59 gm | C12(CC3CC(CC(C1)C3)C2)CC(C)=NO | C13H21NO
catalyst | PtO2 | O=[Pt]=O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | β-(1-Adamantyl)-α-methylethylamine | C12(CC3CC(CC(C1)C3)C2)CC(C)N | C13H23N
